US07692011B2
Preparation of 7-Chloro-8-hydroxy-5-iodo-quinazoline (A70) (Scheme A9)
To a solution of 7-chloro-8-hydroxy-quinazoline (A69) (0.1 mol) and potassium acetate (0.15 mol) in MeOH and H2O (19:1, 250 mL) was added, over 30 min, a solution of iodine (0.095 mol) in MeOH and H2O (19:1, 350 mL). The mixture was then heated under reflux for 15 min, cooled and H2O (400 mL) was added. The precipitate was isolated by filtration, washed with saturated sodium thiosulfate and H2O, and dried. This provided 7-chloro-8-hydroxy-5-iodo-quinazoline (A70) as a solid.

reactant | 7-chloro-8-hydroxy-quinazoline | 0.1 mol | ClC1=CC=C2C=NC=NC2=C1O | C8H5ClN2O
reactant | potassium acetate | 0.15 mol | C(C)(=O)[O-].[K+]
reactant | iodine | 0.095 mol | II | I2
solvent | MeOH | CO | CH4O
solvent | H2O | 250 mL | O | H2O
solvent | H2O | 350 mL | O | H2O
solvent | H2O | 400 mL | O | H2O
product | 7-Chloro-8-hydroxy-5-iodo-quinazoline | ClC1=CC(=C2C=NC=NC2=C1O)I | C8H4ClIN2O
